US06808862B2
In 400 ml of acetonitrile was dissolved 53.2 g of tetrahydrothiophene, and to the solution was gradually added a solution containing 100 g of phenacyl bromide dissolved in 300 ml of acetonitrile. The solution was stirred at room temperature for 3 hours to deposit powder. The reaction solution was poured into 1,500 ml of ethyl acetate, and the powder deposited was collected by filtration and dried to obtain 137 g of phenacylthiophenium bromide.

reactant | tetrahydrothiophene | 53.2 g | S1CCCC1 | C4H8S
reactant | phenacyl bromide | 100 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | ethyl acetate | 1,500 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | phenacylthiophenium bromide | 137 g | [Br-].C(C(=O)C1=CC=CC=C1)C=1[SH+]C=CC1 | InChI=1S/C12H10OS.BrH/c13-12(9-11-7-4-8-14-11)10-5-2-1-3-6-10;/h1-8H,9H2;1H
